US06653334B1
Synthesis of tert-Butyl 2-[4-[3-(N-n-propyl)aminopropyl]phenoxy]-2-methylpropionate
tert-Butyl 2-[4-[2-(N-n-propylaminocarbonyl)ethyl]phenoxy]-2-methylpropionate (4.0 g, 11.4 mmol) was dissolved in tetrahydrofuran (10 mL). 1.0M Borane-tetrahydrofuran complex in tetrahydrofuran solution (34.3 mL, 34.3 mmol) was added dropwise, the mixture was stirred for three hours at 50° C. Concentrated hydrochloric acid was added under ice-cooling, the mixture was stirred for three hours at room temperature. Aqueous 80% ethylamine solution was added dropwise under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, followed by drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol=50/1), whereby the target compound was obtained (2.3 g, 59%).

reactant | tert-Butyl 2-[4-[2-(N-n-propylaminocarbonyl)ethyl]phenoxy]-2-methylpropionate | 11.4 mmol, 4.0 g | C(CC)NC(=O)CCC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C20H31NO4
reactant | hydrochloric acid | Cl | ClH
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 34.3 mmol, 34.3 mL | O1CCCC1 | C4H8O
product | tert-Butyl 2-[4-[3-(N-n-propyl)aminopropyl]phenoxy]-2-methylpropionate | C(CC)NCCCC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C20H33NO3
